* CL21A226MPQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-13-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 22uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 2.5V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A226MPQNNN_Precise_DC2.5V_25degC 1 2
C1 1 3 1.22121E-5
C2 3 4 3.47288E-4
C3 4 5 4.28784E-4
C4 5 6 4.37698E-4
C5 6 7 4.20291E-4
C6 7 8 5.15402E-4
C7 8 9 3.76943E-4
C8 9 10 1.0E-10
C16 17 18 0.00152
C17 18 19 0.00867
C18 19 20 2.53303E-4
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 2.74732E-5
C24 25 26 3.72857E-5
C25 26 27 1.81676E-6
C26 27 28 4.43914E-11
C27 28 2 3.34958E-11
L10 11 12 6.59815E-11
L11 12 13 9.01957E-11
L12 13 14 8.92907E-11
L13 14 15 2.91460E-11
L14 15 16 3.31671E-11
L15 16 17 1.0E-10
L16 17 18 7.57950E-12
L17 18 19 2.49589E-12
L18 19 20 1.0E-10
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 8.38641E-11
L24 25 26 3.16017E-11
L25 26 27 1.86549E-10
L26 27 28 3.23955E-11
L27 28 2 1.57044E-11
R1 1 3 1.0E8
R2 3 4 20.41156
R3 4 5 2.44340
R4 5 6 0.43325
R5 6 7 0.08566
R6 7 8 0.01417
R7 8 9 0.00413
R8 9 10 1.0E-6
R9 10 11 0.00237
R11 12 13 0.01257
R12 13 14 0.01244
R13 14 15 0.03623
R14 15 16 0.14268
R15 16 17 1.0E-6
R16 17 18 9.56323E-4
R17 18 19 2.70405E-4
R18 19 20 1.0E-6
R19 20 21 1.0E-6
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00403
R24 25 26 0.00265
R25 26 27 0.00679
R26 27 28 1.20938
R27 28 2 0.86081
.ENDS CL21A226MPQNNN_Precise_DC2.5V_25degC